US03968230
Preparation of Racemic 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione
A mixture of 4.32 g. of 1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione, 1.2 g. of sodium methylate and 40 ml. of ethanol is stirred at room temperature for 3 houRS and 3 ml. of methyl iodide is added. The reaction mixture is stirred for 6 hours longer and concentrated. The residue is mixed with benzene and water and the layers are separated. The benzene layer is washed with water and concentrated. The product is further purified by recrystallization from ethyl acetate and melts at 124°-126°C.

reactant | 1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione | C1CCN2C1C(NC1=C(C2=O)C=CC=C1)=O | C12H12N2O2
reactant | sodium methylate | C[O-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | Racemic 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
